US04978662
A reaction mixture containing N-chlorosuccinimide (6.67 g, 50.0 mmol), benzoylperoxide (50 mg) and TMPZ (6.81 g, 50.0 mmol), in 125 ml of reagent grade CCl4 was refluxed for 12 hours. The reaction solution was then cooled to 0° C. and filtered, removing succinimide. The solvent was evaporated in vacuo resulting in an oil (chloromethyltrimethylpyrazine). The oil was cooled to 0° C. and 25 ml of distilled n-amyl amine was dripped into the oil over a 20 minute period. The reaction mixture was stirred in an ice bath until an exothermic reaction ensured whereby the mixture was gently refluxed for 5 hours. Upon filtration of this reaction mixture, the resulting oil was chromatographed by flash column chromatography using 230-400 mesh silica gel (available from Fisher Scientific Co., King of Prussia, Pa.). Fractional separation was obtained by using a gradient solvent system (100% CHCl3 →25:1 CDCl3 /MeOH+1% NH4OH). Purification by Kugelrohr distillation at 90° C./15 mm Hg afforded 15% yield of a clear oil. m.p. 174°-175° C. Analysis: H-NMR(CDCl3) (ppm): 3.8(2H,S), 2.6-2.7(2H,t), 2.45-2.5(9H,t), 1.8-1.9(2H,m), 1.5-1.6(2H,m), 1.3-1.37(4H, sextet), 0.8-0.9(3H,t).

reactant | N-chlorosuccinimide | 50.0 mmol, 6.67 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | benzoylperoxide | 50 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | TMPZ | 50.0 mmol, 6.81 g | CC1=C(N=C(C(=N1)C)C)C | C8H12N2
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | chloromethyltrimethylpyrazine | ClCC1=C(N=C(C(=N1)C)C)C | C8H11ClN2
